US06492348B1
(2R,3R,4R)-4,5-bis(acetyloxy)-2-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate
(3R,4S,5R)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-2,3,4-triol isomer 1 (150 mg) was dissolved in pyridine (4 ml) and the mixture treated with acetic anhydride (0.983 ml). The resulting solution was stirred at 22° C. for 18 h. The mixture was concentrated in vacuo to afford a brown oil. Purification by chromatography on silica gel (Varian Bondelut SiO2 cartridge), eluting with (i) dichloromethane, (ii) ether (iii) ethyl acetate, afforded the title compound as a pale yellow solid (142 mg).

reactant | (3R,4S,5R)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-2,3,4-triol | C(C)C1=CC(=NO1)[C@@H]1[C@H]([C@H](C(O1)O)O)O | C9H13NO5
reactant | acetic anhydride | 0.983 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | (2R,3R,4R)-4,5-bis(acetyloxy)-2-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate | 142 mg | C(C)(=O)O[C@@H]1[C@H](OC([C@@H]1OC(C)=O)OC(C)=O)C1=NOC(=C1)CC | C15H19NO8
